US06777428B1
4-[3-(2-fluorobenzamidyl)benzoyl]-1-methylpiperidine
Beginning with 4-[3-aminobenzoyl]-1-methylpiperidine (50 mg, 0.229 mmol) and 2-fluorobenzoyl chloride (82 μl, 0.687 mmol), 76.8 mg (99%) of the title compound were recovered.

reactant | 4-[3-aminobenzoyl]-1-methylpiperidine | 0.229 mmol, 50 mg | NC=1C=C(C(=O)C2CCN(CC2)C)C=CC1 | C13H18N2O
reactant | 2-fluorobenzoyl chloride | 0.687 mmol, 82 μl | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
product | 4-[3-(2-fluorobenzamidyl)benzoyl]-1-methylpiperidine | 76.8 mg, 99% | FC1=C(C(=O)NC=2C=C(C(=O)C3CCN(CC3)C)C=CC2)C=CC=C1 | C20H21FN2O2
